US08357711B2
4-{[(5-Chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-cyanobenzoic acid
Methyl 4-{[(5-chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-cyanobenzoate (Preparation 21, 124 mg, 0.348 mmol, 1 eq) was dissolved in dioxane (2.5 ml): water (2.5 ml), lithium hydroxide (200 mg, 5 mmol, 14 eq) was added and the reaction mixture stirred at room temperature for 1 hour. The reaction mixture was diluted with water (5 ml), washed with ethyl acetate (10 ml), acidified with 2M HCl (10 ml), extracted into ethyl acetate (10 ml), dried over sodium sulphate, filtered and evaporated to yield the title compound as a brown solid (95 mg, 0.27 mmol, 79%).

reactant | Methyl 4-{[(5-chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-cyanobenzoate | 0.348 mmol, 124 mg, 1 eq | ClC1=CN=C(S1)NS(=O)(=O)C1=CC(=C(C(=O)OC)C=C1)C#N | C12H8ClN3O4S2
reactant | lithium hydroxide | 5 mmol, 200 mg, 14 eq | [OH-].[Li+]
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
solvent | water | 2.5 ml | O | H2O
product | 4-{[(5-Chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-cyanobenzoic acid | 0.27 mmol, 95 mg, 79% | ClC1=CN=C(S1)NS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)C#N | C11H6ClN3O4S2
